US07009056B2
1-Benzyl-3-(5-hydroxylaminocarbonyl-2-furyl)-1H-indazole
A mixture of 1-benzyl-3-(5-hydroxycarbonyl-2-furyl)-1H-indazole (0.40 g, 1.257 mmol), DMF (cat., 2 drops) and SOCl2 (5 mL) was heated to reflux for 2 h. After cooling, the excess SOCl2 was removed under reduced pressure and the almost black oil was dissolved in DME (8 mL). A portion of this acid chloride solution (2 mL, approx. 0.314 mmol) was mixed with a solution of NH2OH.HCl (0.20 g, 2.88 mmol) and K2CO3 (excess) in H2O (2 mL) and allowed to stir at rt overnight A precipitate formed while stirring. The reaction mixture was poured onto water (50 mL) and extracted four times with EtOAc. The combined organic material was dried (MgSO4) and concentrated under reduced pressure to give the crude product (77.4 mg, 74%) as an orange/brown solid.

reactant | 1-benzyl-3-(5-hydroxycarbonyl-2-furyl)-1H-indazole | 1.257 mmol, 0.40 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)O | C19H14N2O3
reactant | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
reactant | NH2OH.HCl | 2.88 mmol, 0.20 g | NO.Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
product | 1-Benzyl-3-(5-hydroxylaminocarbonyl-2-furyl)-1H-indazole | 77.4 mg, 74% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)NO | C19H15N3O3
